US05696188
Preparation of N,N'-(m-xylylene)bis Citraconamic Acid
A 2.5-liter glass resin kettle was charged with 136.2 g (1.0 mole) of m-xylylenediamine and 2000 ml of reagent acetone and flushed with nitrogen. The kettle was fitted with a dropping funnel, reflux condenser, mechanical stirrer and thermocouple. The addition funnel was charged with 246 g (2.2 moles) of citraconic anhydride which was slowly added over a 21/2-hour period, with stirring and refluxing the acetone. The reaction mixture was allowed to cool to room temperature with stirring. Suction filtering and acetone wash of the solid product (air-drying) gives a 246 g of a tan powder, melting at 148°-150° C. The structure was confirmed by NMR analysis.

reactant | m-xylylenediamine | 1.0 mole, 136.2 g | C1(=CC(=CC=C1)CN)CN | C8H12N2
reactant | citraconic anhydride | 2.2 moles, 246 g | C1(\C(\C)=C/C(=O)O1)=O | C5H4O3
solvent | acetone | CC(=O)C | C3H6O
product | N,N'-(m-xylylene)bis Citraconamic Acid | 246 g | C1(=CC(=CC=C1)CNC(\C=C(/C(=O)O)\C)=O)CNC(\C=C(/C(=O)O)\C)=O | C18H20N2O6
